US06747037B1
Sodium hydride (60% dispersion in oil, 219 mg, 5.27 mmol) was added to a solution of 6-(tert-butyl-dimethyl-silanyloxymethyl)-piperidin-2-one (1.27 g, 5.21 mmol) in DMF (10 mL) at rt. After 1 h, methyl 7-iodohept-5-ynoate (1.52 g, 5.73 mmol) in DMF (2 mL) was added via cannula. After 18 h at rt, the reaction was quenched by the addition of aqueous HCl (0.5 M, 15 mL) and the mixture was extracted with EtOAc (3×30 mL). The combined organic phase was washed with brine (3×20 mL), dried (Na2SO4), filtered and concentrated in vacuo. Purification of the residue by flash column chromatography on silica gel (CH2Cl2→40% EtOAc/CH2Cl2, gradient) afforded 1.04 g (53%) of 7-[2-tert-butyl-dimethyl-silanyloxymethyl)-6-oxo-piperidin-1-yl]-hept-5-ynoic acid methyl ester.

reactant | Sodium hydride | 5.27 mmol, 219 mg | [H-].[Na+]
reactant | 6-(tert-butyl-dimethyl-silanyloxymethyl)-piperidin-2-one | 5.21 mmol, 1.27 g | C(C)(C)(C)[SiH2]OC(C1CCCC(N1)=O)(C)C | C12H25NO2Si
reactant | methyl 7-iodohept-5-ynoate | 5.73 mmol, 1.52 g | ICC#CCCCC(=O)OC | C8H11IO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | hept-5-ynoic acid methyl ester | COC(CCCC#CC)=O | C8H12O2
